US07196100B2
6-(1-Pyridin-2-ylmethyl-piperidin-4-yloxy)-nicotinamide
Combine 6-(piperidin-4-yloxy)-nicotinamide (100 mg, 0.45 mmol) with sodium triacetoxy-borohydride (124 mg, 0.59 mmol) and pyridine-2-carbaldehyde (43 μL, 045 mmol) in CH2Cl2 (1.5 mL). Stir the reaction mixture for 3 h. Then, dilute the reaction mixture with CH2Cl2 (5 mL) and washed with NaOH (1M aq, 5 mL). Dry the organic layer over sodium sulfate, filter and concentrate. Purify the residue through an SCX chromatography to provide the title compound (83 mg, 59%). Mass spectrum (ion spray): m/z=313.1 (M+1); 1H NMR (DMSO-d6): 8.67 (ad, J=2.2 Hz, 1H), 8.50 (m, 1H), 8.12 (dd, J=2.6 and 8.8 Hz, 1H), 7.98 (bs, 1H), 7.80–7.76 (m, 1H), 7.47 (d, J=7.9 Hz, 1H), 7.41 (bs, 1H), 7.29–7.26 (m, 1H), 6.84 (d, J=8.8 Hz, 1H), 5.10 (m, 1H), 3.63 (m, 2H), 2.77–2.74 (m, 2H), 2.35–2.30 (m, 2H), 1.99 (bs, 2H), 1.75–1.69 (m, 2H).

reactant | 6-(piperidin-4-yloxy)-nicotinamide | 0.45 mmol, 100 mg | N1CCC(CC1)OC1=NC=C(C(=O)N)C=C1 | C11H15N3O2
reactant | sodium triacetoxy-borohydride | 0.59 mmol, 124 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | pyridine-2-carbaldehyde | 43 μL | N1=C(C=CC=C1)C=O | C6H5NO
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-(1-Pyridin-2-ylmethyl-piperidin-4-yloxy)-nicotinamide | 83 mg, 59% | N1=C(C=CC=C1)CN1CCC(CC1)OC1=NC=C(C(=O)N)C=C1 | C17H20N4O2
